US04803211
Using as starting materials 0.30 g of 4-acetyl-3- hydroxy-2-propylbenzyl chloride and 0.25 g of 3-hydroxy-2-mercaptopyridine, 0.33 g of 2-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-3-hydroxypyridine was obtained in a manner similar to Example 14.

reactant | 4-acetyl-3- hydroxy-2-propylbenzyl chloride | 0.30 g | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
reactant | 3-hydroxy-2-mercaptopyridine | 0.25 g | OC=1C(=NC=CC1)S | C5H5NOS
product | 2-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-3-hydroxypyridine | 0.33 g | C(C)(=O)C1=C(C(=C(CSC2=NC=CC=C2O)C=C1)CCC)O | C17H19NO3S
